US06509472B2
Dry (R)-2-amino-2-cyclohexyl-1,1-diphenylethanol (147.7 g, 0.5 mmol), dry tetrahydrofuran (2.5 mL) and trimethylborate (68 μL) were added to a dry flask and stirred at room temperature to produce a solution of (R)-4-cyclohexyl-2-methoxy-5,5-diphenyl-1,3,2-oxazaborolidine. 0.5 mL (0.1 mmol) of this solution was added to a borane/dimethylsulfide complex (50 μL, 0.5 mmol) in a dry flask and a solution of (4-chloroacetyl)methane-sulfonanilide (124 mg, 0.5 mmol) in dry tetrahydrofuran (3 mL) was added over 20 minutes via a syringe pump. The reaction was stirred for a further 2 hours, at which time thin layer chromatography (silica gel, hexane/ethyl acetate 1:1) showed that the reduction was complete. The reaction was then quenched by the addition of methanol and concentrated to a solid residue, which was dissolved in ethyl acetate and washed with 2N hydrochloric acid. The ethyl acetate layer was separated, dried over magnesium sulfate and concentrated to give (R)-4-(1-hydroxy-2-chloroethyl)methanesulfonanilide. The enantiomeric excess=94.3% (R), as measured by chiral HPLC (Chiralcel OD-H column, mobile phase, hexane/ethyl acetate (7:3, flow rate=0.7 mL/min).

reactant | (R)-2-amino-2-cyclohexyl-1,1-diphenylethanol | 0.5 mmol, 147.7 g | N[C@@H](C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C20H25NO
reactant | trimethylborate | 68 μL | COB(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | (R)-4-cyclohexyl-2-methoxy-5,5-diphenyl-1,3,2-oxazaborolidine | C1(CCCCC1)[C@H]1NB(OC1(C1=CC=CC=C1)C1=CC=CC=C1)OC | C21H26BNO2
